US05418232
(±)-3-(4-Hydroxybenzyl)-3,4-diazabicyclo[4.1.0]heptane-2,5-dione
To 5 ml of methylene chloride was added 462 mg (1.87 mmol) of (±)-3-(4-methoxybenzyl)-3,4-diazabicyclo[4.1.0]heptane-2,5-dione obtained in Reference Example 19. The mixture was cooled on a dry ice/ethanol bath, and 0.1 ml (1.1 mmol) of boron tribromide was added thereto dropwise. The temperature was elevated to room temperature, and the mixture was stirred for 2 hours. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, the solvent was removed by distillation under reduced pressure, and the residue was recrystallized from ethanol/chloroform to obtain 120 mg (29.6%) of the titled compound.

reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
reactant | (±)-3-(4-methoxybenzyl)-3,4-diazabicyclo[4.1.0]heptane-2,5-dione | 1.87 mmol, 462 mg | COC1=CC=C(CN2C(C3CC3C(N2)=O)=O)C=C1 | C13H14N2O3
reactant | boron tribromide | 1.1 mmol, 0.1 ml | B(Br)(Br)Br | BBr3
solvent | Water | O | H2O
product | (±)-3-(4-Hydroxybenzyl)-3,4-diazabicyclo[4.1.0]heptane-2,5-dione | 120 mg, 29.6% | OC1=CC=C(CN2C(C3CC3C(N2)=O)=O)C=C1 | C12H12N2O3
